US03944557
2.3 gms (.01 mole) of 2-amino-6-chloro-5-cyano-1-methyl-4-methylamino pyridinium chloride (compound 1 - Table 1) was dissolved in water and 0.66 gms (.01 mole) of malononitrile and 2.0 gms (.02 mole) of triethylamine added. After a few minutes 1.7 gms (75% yield of 2-amino-5-cyano-1-methyl-4-methylamino-6-dicyanomethyl pyridinium chloride (compound 83 - Table 6) (MPt>240°C) crystallised out.

reactant | 2-amino-6-chloro-5-cyano-1-methyl-4-methylamino pyridinium chloride | .01 mole, 2.3 gms | [Cl-].NC1=[N+](C(=C(C(=C1)NC)C#N)Cl)C
reactant | malononitrile | .01 mole, 0.66 gms | C(CC#N)#N | C3H2N2
reactant | triethylamine | .02 mole, 2.0 gms | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2-amino-5-cyano-1-methyl-4-methylamino-6-dicyanomethyl pyridinium chloride | 75% yield | [Cl-].NC1=[N+](C(=C(C(=C1)NC)C#N)C(C#N)C#N)C | InChI=1S/C11H10N6.ClH/c1-16-9-3-10(15)17(2)11(8(9)6-14)7(4-12)5-13;/h3,7H,1-2H3,(H2,15,16);1H
